US06884801B1
5-Fluoro-2-methylbenzothiazole was heated with ethylene glycol and 10N sodium hydroxide solution and the resulting thiol methylated using procedures similar to those described in Example 5, to give 5-fluoro-2-(methylthio)aniline.

reactant | 5-Fluoro-2-methylbenzothiazole | FC=1C=CC2=C(N=C(S2)C)C1 | C8H6FNS
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 5-fluoro-2-(methylthio)aniline | FC=1C=CC(=C(N)C1)SC | C7H8FNS
